US06642229B2
3-Bromo-7-methoxyimidazo[1,2-a]pyrimidine (0.48 g, 2.12 mmol) was coupled with 3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile as described in Example 1 to give 3′-(7-methoxyimidazo[1,2-a]pyrimidin-3-yl)biphenyl-2-carbonitrile (458 mg, 66%) as a white powder: δH (400 MHz, CDCl3) 4.08 (3H, s), 6.49 (1H, d, J 7), 7.50 (1H, td, J 8 and 1), 7.51-7.71 (8H, m), 7.81 (1H, dd, J 8 and 1), 8.66 (1H, d, J 7); m/z (ES+) 327 (M++H).

reactant | 3-Bromo-7-methoxyimidazo[1,2-a]pyrimidine | 2.12 mmol, 0.48 g | BrC1=CN=C2N1C=CC(=N2)OC | C7H6BrN3O
reactant | 3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | CC1(OB(OC1(C)C)C=1C=C(C=CC1)C=1C(=CC=CC1)C#N)C | C19H20BNO2
product | 3′-(7-methoxyimidazo[1,2-a]pyrimidin-3-yl)biphenyl-2-carbonitrile | 458 mg, 66% | COC1=NC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)C=2C(=CC=CC2)C#N | C20H14N4O
